US04299821
1.6 g (7 mmoles) of BOC-HPro-NH2 are dissolved in 10 ml of ethyl acetate under heating. The solution is cooled to room temperature, and 10 ml of a 6 n hydrochloric acid solution in ethyl acetate are added. After one hour of standing the mixture is diluted with ether, the separated precipitate is triturated and then filtered off. 1.05 g (91%) of H-HPro-NH2.HCl are obtained; m.p.: 178°-180° C., Rf6 =0.32, [α]D25 =+26.2° (c=1%, in methanol).

reactant | BOC-HPro-NH2 | 7 mmoles, 1.6 g | N1([C@H](C(=O)N)CCCC1)C(=O)OC(C)(C)C | C11H20N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | H-HPro-NH2.HCl | 1.05 g, 91% | N1[C@H](C(=O)N)CCCC1.Cl | InChI=1S/C6H12N2O.ClH/c7-6(9)5-3-1-2-4-8-5;/h5,8H,1-4H2,(H2,7,9);1H/t5-;/m0./s1
